US06573273B1
Using the general method of Example 146 Part B, 3-(2-butyl-1H-imidazo[4,5-c]quinolin-1-yl)propylamine (2.00 g, 7.08 mmol) was reacted with cyclohexyl isocyanate (1.0 g, 7.98 mmol) to provide 2.62 g of N-[3-(2-butyl-1H-imidazo[4,5-c]quinolin-1-yl)propyl]-N′-cyclohexylurea.

reactant | 3-(2-butyl-1H-imidazo[4,5-c]quinolin-1-yl)propylamine | 7.08 mmol, 2.00 g | C(CCC)C=1N(C2=C(C=NC=3C=CC=CC23)N1)CCCN | C17H22N4
reactant | cyclohexyl isocyanate | 7.98 mmol, 1.0 g | C1(CCCCC1)N=C=O | C7H11NO
product | N-[3-(2-butyl-1H-imidazo[4,5-c]quinolin-1-yl)propyl]-N′-cyclohexylurea | 2.62 g | C(CCC)C=1N(C2=C(C=NC=3C=CC=CC23)N1)CCCNC(=O)NC1CCCCC1 | C24H33N5O
